US09145433B2
Analogous to the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole,3-(benzo[d][1,3]dioxol-6-yl)-2-chloropyridine was prepared by heating the mixture of 3,4-(methylenedioxy)phenyl boronic acid (3.0 g, 18.1 mmol), 3-bromo-2-chloropyridine (4.2 g, 1.8 mmol), Pd(PPh3)4 (1.2 g, 1.0 mmol) and 2M aq. Na2CO3 (27 mL, 54 mmol) in 1,4-dioxane (125 mL) under argon atmosphere for 12 h. LC/MS indicated three products. The crude concentrate that was obtained after the extractive work-up dissolved in CH2Cl2, adsorbed on to silica gel and dried. Subsequent purification by flash silica gel column chromatography (Combiflash® companion System® with RediSep® silica gel column 120 g, 30-70% EtOAC/hexanes eluting solvent gradient upon dry powder loading) provided 3-(benzo[d][1,3]dioxol-6-yl)-2-chloropyridine as a white solid 2.3 g, (38%). 1H NMR (DMSO-d6): δ 8.38 (dd, 1H, J=1.7 and 4.7 Hz), 7.82 (dd, 1H, J=2.0 and 7.6 Hz), 7.47 (dd, 1H, J=4.7 and 7.6 Hz), 7.05 (d, 1H, J=1.7 Hz), 7.01 (d, 1H, J=7.9 Hz), 6.90 (dd, 1H, J=1.7 and 7.9 Hz), 6.07 (s, 2H LCMS: rt 7.27 min (A), purity 96%, MS (m/e) 234 (MH+).

reactant | 3-bromo-2-chloropyridine | 1.8 mmol, 4.2 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | Na2CO3 | 54 mmol, 2M, 27 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,4-dioxane | 125 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 1.0 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(benzo[d][1,3]dioxol-6-yl)-2-chloropyridine | 2.3 g | O1COC2=C1C=C(C=C2)C=2C(=NC=CC2)Cl | C12H8ClNO2
